US07479488B2
96c (R)-3-(3-chloro-4-methyl-phenyl)-2-hydroxy-propionic acid
Under a nitrogen atmosphere a mixture of 2.6 g (12.23 mmol) 3-(3-chloro-4-methyl-phenyl)-2-oxo-propionic acid and 2.1 mL (15.1 mmol) triethylamine in 40 mL THF was cooled to −35° C. Then a solution of 5.87 g (18.30 mmol) (1R)-B-chlorodiisopinocampheylborane in 20 mL THF was added dropwise so that the reaction temperature remained between −35° C. and −25° C. The cooling bath was removed and the reaction mixture was stirred overnight at RT. While cooling with ice 30 mL 1 M NaOH and 60 mL diethyl ether were added dropwise and the mixture was stirred for 15 min. The aqueous phase was separated off, the organic phase was extracted twice with 20 mL 1 M NaOH and once with 20 mL water. The combined aqueous phases were acidified with semiconc. HCl while cooling with ice, extracted twice with 60 mL EtOAc and the combined organic phases were dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was reacted further without purification.

reactant | 3-(3-chloro-4-methyl-phenyl)-2-oxo-propionic acid | 12.23 mmol, 2.6 g | ClC=1C=C(C=CC1C)CC(C(=O)O)=O | C10H9ClO3
reactant | triethylamine | 15.1 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-3-(3-chloro-4-methyl-phenyl)-2-hydroxy-propionic acid | ClC=1C=C(C=CC1C)C[C@H](C(=O)O)O | C10H11ClO3
